US05021430
A solution of 0.3 g of N-[4-(2-pyridylaminocarbonyl)-(S,S)-2,4-dibenzylbutyryl]-S-benzyl-(L)-cysteine methyl ester and 1 ml of 1N sodium hydroxide in 2 ml of methanol is stirred at room temperature overnight. To the solution is added 1.1 ml of 1N hydrochloric acid. The solution is concentrated, diluted with water, the solid is collected and dried under high vacuum to give N-[4-(2-pyridylaminocarbonyl)-(S,S)-2,4-dibenzylbutyryl]S-benzyl-(L)-cysteine, melting at 75-80°; [alpha]D =+22.9°.

reactant | N-[4-(2-pyridylaminocarbonyl)-(S,S)-2,4-dibenzylbutyryl]-S-benzyl-(L)-cysteine methyl ester | 0.3 g | COC([C@@H](NC([C@@H](C[C@@H](CC1=CC=CC=C1)C(=O)NC1=NC=CC=C1)CC1=CC=CC=C1)=O)CSCC1=CC=CC=C1)=O | C35H37N3O4S
reactant | sodium hydroxide | 1N, 1 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 1.1 ml | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | N-[4-(2-pyridylaminocarbonyl)-(S,S)-2,4-dibenzylbutyryl]S-benzyl-(L)-cysteine | N1=C(C=CC=C1)NC(=O)[C@@H](C[C@H](C(=O)N[C@@H](CSCC1=CC=CC=C1)C(=O)O)CC1=CC=CC=C1)CC1=CC=CC=C1 | C34H35N3O4S
